US06699910B2
In a 1-L 3-neck round-bottomed flask fitted with condenser, dropping funnel pressure equalizer and magnetic stirrer were placed dichioromethane (300 mL) and lithium borohydride (12.97 g, 0.595 moles). The mixture was heated to 28-30° C., then the heating was discontinued and methanol (19.04 g, 0.595 moles) was added, at a rate that maintained the temperature below 30° C. To this solution, ethyl 5-bromo-2,2-dimethylpentanoate (94 g, 0.397 mol) in dichioromethane (100 mL) was added under argon atmosphere, allowing a gentle reflux during the addition. After the completion of the addition, the mixture was heated to 36-40° C. until no more starting material was detected by GC. The reaction mixture was cooled to 0° C. and was treated with crushed ice (130 g) under vigorous stirring until the effervescence ceased. The reaction mixture was treated with saturated aqueous NH4Cl (120 mL), stirred for 25 min, and warmed to above 15° C. The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×100 mL). The combined organic phases were washed with saturated aqueous NH4Cl (2×100 mL). The organicphase was dried (MgSO4) and the solvent was evaporated under reduced pressure to give 5bromo-2,2-dimethyl-pentan-1-ol (78 g, 88.1% yield). 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 5.02 (s, 1H), 3.39-3.34 (t, J=14, 2H), 3.33 (s, 2H), 1.85-1.75 (m, 2H), 1.38-1.31 (m, 2H), 0.88 (s, 6H). 13C NMR (75 MHz, CDCl3=77.0 ppm/TMS): δ (ppm) 71.5, 37.1, 34.8, 34.6, 27.6, 23.8.

reactant | lithium borohydride | 0.595 moles, 12.97 g | [BH4-].[Li+]
reactant | methanol | 0.595 moles, 19.04 g | CO | CH4O
reactant | ethyl 5-bromo-2,2-dimethylpentanoate | 0.397 mol, 94 g | BrCCCC(C(=O)OCC)(C)C | C9H17BrO2
reactant | NH4Cl | 120 mL | [NH4+].[Cl-]
solvent | dichioromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichioromethane | 300 mL | ClCCl | CH2Cl2
product | 5bromo-2,2-dimethyl-pentan-1-ol | 78 g, 88.1% yield | BrCCCC(CO)(C)C | C7H15BrO
